US09163021B2
N-(2-{[1-(1-hydroxy-2-methylpropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)-2-[4-(trifluoromethyl)phenyl]acetamide
Prepared according to Method M (Example 206) using (4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone (Preparation 27) and 4-trifluoromethylphenylacetic acid at 70° C. The residue was purified over neutral alumina eluting with 50% EtOAc in hexane followed by acid deprotection using 10% HCl in dioxane at room temperature for 18 hours. The reaction was concentrated in vacuo and purified using preparative HPLC to afford the title compound.

reactant | (4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | NC1=CC(=NC=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO[Si](C)(C)C(C)(C)C)(C)C | C23H32N4O2Si
reactant | 4-trifluoromethylphenylacetic acid | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
product | N-(2-{[1-(1-hydroxy-2-methylpropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)-2-[4-(trifluoromethyl)phenyl]acetamide | OCC(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C2=NC=CC(=C2)NC(CC2=CC=C(C=C2)C(F)(F)F)=O | C26H23F3N4O3
